US07687502B2
6-(1,5-Dimethylimidazol-2-ylsulfanyl)-(5-methyl-pyrazin-2-yl)pyrido[3,2-d]pyrimidin-4-yl-amine
The compound of Example 47 was manufactured by the same method as in Example 31, by a similar method thereto or by a combination of such a method with a conventional method using 2-mercapto-1,5-dimethylimidazole, 2-amino-5-methylpyrazine and 4,6-dichloro-pyrido[3,2-d]pyrimidine.

reactant | 2-mercapto-1,5-dimethylimidazole | SC=1N(C(=CN1)C)C | C5H8N2S
reactant | 2-amino-5-methylpyrazine | NC1=NC=C(N=C1)C | C5H7N3
reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
product | 6-(1,5-Dimethylimidazol-2-ylsulfanyl)-(5-methyl-pyrazin-2-yl)pyrido[3,2-d]pyrimidin-4-yl-amine | CN1C(=NC=C1C)SC=1C=CC=2N=CN=C(C2N1)NC1=NC=C(N=C1)C | C17H16N8S
